US05292732
2-(2-Bromoethyl)-1,3-dioxolane (40 ml) was added dropwise within 15 minutes under argon and while stirring at a maximum 30° C. to a suspension of Rieke magnesium, prepared from 45.0 g of magnesium chloride, in 1500 ml of absolute tetrahydrofuran. The suspension was stirred at room temperature for 15 minutes, cooled to 0° C. and, after the addition of 43.5 g of copper(I) bromide, stirred at 5° C. for 15 minutes. After cooling to -70° C., 33 ml of 4-chlorobenzoyl chloride was added dropwise within 10 minutes. The reaction mixture was stirred at -70° C. for 15 minutes and at room temperature for 2 hours and subsequently hydrolyzed with 1000 ml of saturated ammonium chloride solution while cooling at a maximum 20° C. After the addition of 500 ml of water the mixture was extracted three times with 1000 ml of ethyl acetate each time. The combined organic extracts were washed with 1000 ml of saturated sodium chloride solution, dried over MgSO4 and freed from solvent. 63.0 g of residue were chromatographed on 2000 g of silica gel with ethyl acetate/hexane (1:1) as the eluent. 36.5 g (59%) of 4'-chloro-3(1,3-dioxolan-2-yl)propiophenone were isolated as a yellow, amorphous solid.

reactant | 2-(2-Bromoethyl)-1,3-dioxolane | 40 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | magnesium | [Mg] | Mg
reactant | magnesium chloride | 45.0 g | [Cl-].[Mg+2].[Cl-]
reactant | 4-chlorobenzoyl chloride | 33 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ammonium chloride | 1000 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
catalyst | copper(I) bromide | 43.5 g | [Cu]Br
solvent | water | 500 ml | O | H2O
product | 4'-chloro-3(1,3-dioxolan-2-yl)propiophenone | 36.5 g, 59% | ClC1=CC=C(C=C1)C(CCC1OCCO1)=O | C12H13ClO3
